US04287197
A catalyst (3% palladium-on-charcoal; 3.5 g) is added to a solution of 3-ethoxymethyl-5-nitroisoquinoline (24 g) in ethanol (350 cc). A stream of hydrogen is bubbled through for 4 hours, whilst keeping the temperature at about 25° C. with the aid of a bath of cold water. The suspension is filtered and the filtrate is evaporated to dryness at 50° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue is recrystallized from diisopropyl ether (200 cc). 5-Amino-3-ethoxymethylisoquinoline (16.5 g), melting at 95° C., is obtained.

reactant | 3-ethoxymethyl-5-nitroisoquinoline | 24 g | C(C)OCC=1N=CC2=CC=CC(=C2C1)[N+](=O)[O-] | C12H12N2O3
solvent | ethanol | 350 cc | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 5-Amino-3-ethoxymethylisoquinoline | 16.5 g | NC1=C2C=C(N=CC2=CC=C1)COCC | C12H14N2O
